US09377689B2
A 5-L flask equipped with a stirrer, thermometer, and nitrogen purging line was charged with 458 g of diphenolic acid, 884 g of potassium carbonate, and 2,000 g of dimethylacetamide. With stirring in a nitrogen atmosphere at room temperature, 774 g of allyl bromide was added dropwise, followed by stirring at 60° C. for 58 hours. With the temperature kept, 221 g of potassium carbonate, 193 g of allyl bromide and 500 g of dimethylacetamide were added, followed by stirring at 60° C. for 20 hours. Under ice cooling, 2,000 g of water was added dropwise to quench the reaction. Then 1,000 g of toluene, 1,000 g of hexane, and 2,000 g of water were added to the reaction solution, from which an organic layer was taken out. The organic layer was sequentially washed with 2,000 g of water, four 500-g portions of water, and 500 g of saturated saline solution. Thereafter the solvent was distilled off, obtaining 686 g of allyl 4,4-bis(4-allyloxyphenyl)pentanoate in crude form.

reactant | diphenolic acid | 458 g | CC(CCC(=O)O)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O | C17H18O4
reactant | potassium carbonate | 884 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 2,000 g | CC(=O)N(C)C | C4H9NO
reactant | allyl bromide | 774 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 221 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 193 g | C(C=C)Br | C3H5Br
reactant | dimethylacetamide | 500 g | CC(=O)N(C)C | C4H9NO
reactant | hexane | 1,000 g | CCCCCC | C6H14
solvent | water | 2,000 g | O | H2O
solvent | toluene | 1,000 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 2,000 g | O | H2O
product | allyl 4,4-bis(4-allyloxyphenyl)pentanoate | 686 g | C(C=C)OC1=CC=C(C=C1)C(CCC(=O)OCC=C)(C)C1=CC=C(C=C1)OCC=C | C26H30O4
